US09034880B2
Preparation of 6,8-dichloro-5-(2-(6-(trifluoromethyl)pyridin-3-yl)ethyl)-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole (Compound 339)
The title compound is prepared from a mixture of 6,8-dichloro-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole, 2-(trifluoromethyl)-5-vinylpyridine and KOH (5-7 equiv) in NMP at a temperature ranging between 25 deg C. to 100 deg C. The product obtained is isolated by preparative HPLC.

reactant | 6,8-dichloro-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole | ClC1=CC(=CC=2C3=C(NC12)CCN(C3)C)Cl | C12H12Cl2N2
reactant | 2-(trifluoromethyl)-5-vinylpyridine | FC(C1=NC=C(C=C1)C=C)(F)F | C8H6F3N
reactant | KOH | 5-7 equiv | [OH-].[K+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 6,8-dichloro-5-(2-(6-(trifluoromethyl)pyridin-3-yl)ethyl)-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole | ClC1=CC(=CC=2C3=C(N(C12)CCC=1C=NC(=CC1)C(F)(F)F)CCN(C3)C)Cl | C20H18Cl2F3N3
